US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(2-pyridylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (722 mg: 0.70 mMol.) in a mixture of anisole (2 ml) and nitromethane (8 ml) cooling at -40° C. is added a solution of aluminum chloride (744 mg; 5.59 mMol. ) in anisole (2 ml), and the mixture is stirred at -30° to -40° C. for 1 hour. The reaction mixture is diluted with 1N-hydrochloric acid (6 ml) and water, washed with ethyl acetate, concentrated under reduced pressure to remove the organic solvents, and passed through a styrene-divinylbenzene copolymer column. The adsorbed material is eluted with methanol-water (4:1). The eluate is concentrated. The residue is washed with ethyl acetate and dried to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(2-pyridylthiomethylthio)-3-cephem-4-carboxylic acid (289 mg). Yield: 79%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(2-pyridylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.70 mMol, 722 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SCSC2=NC=CC=C2 | C55H48N6O7S4
reactant | aluminum chloride | 5.59 mMol, 744 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 8 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrochloric acid | 6 ml | Cl | ClH
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(2-pyridylthiomethylthio)-3-cephem-4-carboxylic acid | 289 mg, Yield: 79% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC2=NC=CC=C2)C(=O)O)C1=O)=N/O | C18H16N6O5S4
